US07939527B2
Intermediate 11: 2-[4-(2-Bromoethoxy)phenoxy][1,3]thiazolo[4,5-b]pyridine
A mixture of 2-chloro[1,3]thiazolo[4,5-b]pyridine hydrochloride (863 mg, 4.17 mmol), 4-(2-bromo-ethoxy)-phenol (905 mg, 4.17 mmol), and Cs2CO3 (5.88 g, 16.67 mmol) was stirred in CH3CN (42 mL) for 16 h. After filtration through diatomaceous earth, the organic filtrate was partitioned with 1 M NaOH (3×10 mL) and satd. aq. NaCl (1×10 mL). The organic layer was dried and concentrated to yield a red oil. Additional desiccation under high vacuum yielded a brown solid in red oil. Diethyl ether was added, and the mixture was sonicated for 20 min to give a homogenous suspension. The pink solid was filtered and discarded, and the ether solution was concentrated to yield the title compound as a yellow solid (1.28 g, 87%). 1H NMR (500 MHz, CDCl3): 8.58 (dd, J=4.8, 1.7, 1H), 8.02 (dd, J=7.9, 1.67 1H), 7.38-7.34 (m, 2H), 7.21 (dd, J=7.9, 4.8, 1H), 7.01-6.97 (m, 2H), 4.33 (t, J=6.2, 2H), 3.68 (t, J=6.2, 2H). MS (ESI): mass calcd. for C14H11BrN2O2S, 349.97; m/z found, 351.0 [M+H]+.

reactant | 2-chloro[1,3]thiazolo[4,5-b]pyridine hydrochloride | 4.17 mmol, 863 mg | Cl.ClC=1SC=2C(=NC=CC2)N1
reactant | 4-(2-bromo-ethoxy)-phenol | 4.17 mmol, 905 mg | BrCCOC1=CC=C(C=C1)O | C8H9BrO2
reactant | Cs2CO3 | 16.67 mmol, 5.88 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | CH3CN | 42 mL | CC#N | C2H3N
product | 2-[4-(2-Bromoethoxy)phenoxy][1,3]thiazolo[4,5-b]pyridine | 1.28 g, 87% | BrCCOC1=CC=C(OC=2SC=3C(=NC=CC3)N2)C=C1 | C14H11BrN2O2S
